US08003651B2
DIPEA (35.5 mg, 0.275 mmol) was added to a suspension of (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (20 mg, 0.69 mmol), 1-(tert-butoxycarbonyl)-3-(4-chlorophenyl)pyrrolidine-3-carboxylic acid (26.9 mg, 0.082 mmol), and O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (31.3 mg, 0.082 mmol) in CH2Cl2 (5.0 mL) at room temperature. The resulting mixture was stirred overnight, diluted with EtOAc, washed with saturated aqueous NaHCO3 and saturated aqueous NH4Cl. The organic layer was dried (MgSO4) and concentrated. The residue was purified by a silica cartridge (5.0 g), eluted by a mixture of MeOH and CH2Cl2 (1.5:98.5) to give tert-butyl 3-(4-chlorophenyl)-3-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate as a clear oil (25 mg, 69%). LCMS (APCI+) [M-Boc+H]+ 526.1; Rt: 3.49.

reactant | DIPEA | 0.275 mmol, 35.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.69 mmol, 20 mg | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2
reactant | 1-(tert-butoxycarbonyl)-3-(4-chlorophenyl)pyrrolidine-3-carboxylic acid | 0.082 mmol, 26.9 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)O)C1=CC=C(C=C1)Cl | C16H20ClNO4
reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.082 mmol, 31.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(4-chlorophenyl)-3-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate | 25 mg, 69% | ClC1=CC=C(C=C1)C1(CN(CC1)C(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C | C28H36ClN5O3
